US06894042B2
Methyl 2-(diethoxymethyl)-1-benzofuran-6-carboxylate (417 mg, 1.5 mmol) is dissolved in MeOH (8 ml) and H2O (2 ml). 2N NaOH (0.9 ml, 1.8 mmol) is added drop-wise, and the reaction is stirred for 4 days. The volatiles are removed in vacuo and the residue is dissolved in H2O (2 ml). Concentrated HCl is used to adjust the pH to 3, and the resulting precipitate is isolated via filtration and dried overnight to afford 410 mg (>100%, water present) of 2-(diethoxymethyl)-1-benzofuran-6-carboxylic acid as a brown solid. 1H NMR (400 MHz, CDCl3): δ 1.29, 3.72, 6.9, 7.66, 8.04, 8.29 ppm.

reactant | Methyl 2-(diethoxymethyl)-1-benzofuran-6-carboxylate | 1.5 mmol, 417 mg | C(C)OC(C=1OC2=C(C1)C=CC(=C2)C(=O)OC)OCC | C15H18O5
reactant | NaOH | 1.8 mmol, 2N, 0.9 ml | [OH-].[Na+]
solvent | MeOH | 8 ml | CO | CH4O
solvent | H2O | 2 ml | O | H2O
product | 2-(diethoxymethyl)-1-benzofuran-6-carboxylic acid | 410 mg, >100% | C(C)OC(C=1OC2=C(C1)C=CC(=C2)C(=O)O)OCC | C14H16O5
